US07067540B2
Preparation of 3-acetyl-1-(2-chlorophenyl)-4-hydroxy-6-methylpyridin-2(1H)-one
A mixture of 2-chlorophenylisocyanate (3.0 g, 19.53 mmol), and diketene (3.3 g, 39.28 mmol) in toluene (10.0 mL) containing triethylamine (0.05 mL) was heated to reflux for 6 h, under an atmosphere of argon. Toluene was distilled in vacuo and the resulting residue was purified by silica gel flash chromatography using 25% EtOAc in hexanes as the eluent to afford the title compound (0.85 g, see ref: Heterocycles 27 (9), 2063, 1988.) as a pale yellow solid: 1H-NMR (CD3OD) δ: 7.63 (m, 1H), 7.52 (m, 2H), 7.4 (m, 1H), 6.14 (s, 1H), 2.58 (s, 3H), and 1.95 (s, 3H); ES-MS m/z=278 (MH+).

reactant | 2-chlorophenylisocyanate | 19.53 mmol, 3.0 g | ClC1=C(C=CC=C1)N=C=O | C7H4ClNO
reactant | diketene | 39.28 mmol, 3.3 g | C=C1CC(=O)O1 | C4H4O2
reactant | triethylamine | 0.05 mL | C(C)N(CC)CC | C6H15N
reactant | toluene | 10.0 mL | C1(=CC=CC=C1)C | C7H8
product | 3-acetyl-1-(2-chlorophenyl)-4-hydroxy-6-methylpyridin-2(1H)-one | 0.85 g | C(C)(=O)C=1C(N(C(=CC1O)C)C1=C(C=CC=C1)Cl)=O | C14H12ClNO3
